US05382686
157.6 g of p-chloronitrobenzene and 150.5 g of sodium 4-chlorophenolate were initially introduced into a steel autoclave. At temperature, 150 g of liquid ammonia were pumped into the vessel, the mixture was brought to 80° C. and stirred at this temperature for 10 hours. 150 g of water were then pumped in the vessel, the mixture was cooled to room temperature, the pressure vessel was let down while removing the ammonia at the same time by distillation, and the reaction mixture was filtered off through a suction filter. The crystalline product was washed with water and dried to give 4-chloro-4'-nitrodiphenyl ether with a yield of 226.7 g=92.3% of the theoretical yield. The product is almost 100% pure.

reactant | p-chloronitrobenzene | 157.6 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium 4-chlorophenolate | 150.5 g | ClC1=CC=C(C=C1)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | water | 150 g | O | H2O
product | 4-chloro-4'-nitrodiphenyl ether | C1=CC(=CC=C1[N+](=O)[O-])OC2=CC=C(C=C2)Cl | C12H8ClNO3
